US06495546B1
Under nitrogen, to a solution of N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (150 mg) in tetrahydrofuran (5 ml) was added triphenylphosphine (290 mg), cyclopentanol (60 μl) and diethyl azodicarboxylate (174 μl) at 5° C., and the mixture was stirred at the same temperature for 5.5 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=10:1) to give N-(3-cyclopentyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine (108 mg).

reactant | N-(3-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 150 mg | OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C31H47NO5Si
reactant | triphenylphosphine | 290 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentanol | 60 μl | C1(CCCC1)O | C5H10O
reactant | diethyl azodicarboxylate | 174 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(3-cyclopentyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-N-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]-tert-butoxycarbonylamine | 108 mg | C1(CCCC1)OC1=CC2=C(CCCC(C2)N(C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC)C(=O)OC(C)(C)C)C=C1 | C36H55NO5Si
